US04644005
A. N-(2,4-difluorophenyl)-1-ethyl-5-(2-methyl-4,5-dihydro-1,3-dioxol-2-yl)oxindole-3-carboxamide
A mixture of 1.0 g. (3.1 mmoles) of ethyl 1-ethyl-5-(2-methyl-4,5-dihydro-1,3-dioxol-2-yl)oxindole-3-carboxylate and 809 mg. (6.3 mmoles) of 2,4-difluoroaniline in 40 ml of benzene was heated to reflux through a soxhlet filled with 4A sieves for 45 minutes. The reaction mixture was cooled and poured into a mixture of 400 ml. 2N hydrochloric acid and 100 ml. of methylene chloride. The organic layer was separated, dried over magnesium sulfate and concentrated to give 1.24 g. of a solid residue. Recrystallization from diisopropyl ether--methylene chloride gave 1.0 g. of product (80% yield), m.p. 166°-170° C.

reactant | ethyl 1-ethyl-5-(2-methyl-4,5-dihydro-1,3-dioxol-2-yl)oxindole-3-carboxylate | 3.1 mmoles | C(C)N1C(C(C2=CC(=CC=C12)C1(OCCO1)C)C(=O)OCC)=O | C17H21NO5
reactant | 2,4-difluoroaniline | 6.3 mmoles | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | N-(2,4-difluorophenyl)-1-ethyl-5-(2-methyl-4,5-dihydro-1,3-dioxol-2-yl)oxindole-3-carboxamide | 80% yield | FC1=C(C=CC(=C1)F)NC(=O)C1C(N(C2=CC=C(C=C12)C1(OCCO1)C)CC)=O | C21H20F2N2O4
